US04434175
Ethyl 3-ethoxycarbonyl-4-hydroxy-1-methylpyrrole-2-acetate (255 mg, 1.0 mmol) is mixed with p-chlorobenzoyl chloride (385 μl, 3.0 mmol) under nitrogen, and 2.0 ml anhydrous trifluoromethanesulfonic acid is added. The reaction mixture is stirred at room temperature for one hour followed by dilution with methylene chloride (50 ml). Solid sodium bicarbonate is slowly added until the acid is neutralized. The solids are filtered off and washed with an additional 50 ml methylene chloride. The combined methylene chloride solutions are washed with water (20 ml) and saturated brine (50 ml). Subsequently, the washed layers are dried with sodium sulfate and the solvent is removed in vacuo to give a red solid which is recrystallized from ethanol to give 275 mg (70%) of ethyl 5-(p-chlorobenzoyl)-3-ethoxycarbonyl-4-hydroxy-1-methylpyrrole-2-acetate, m.p. 145°-147° C.

reactant | Ethyl 3-ethoxycarbonyl-4-hydroxy-1-methylpyrrole-2-acetate | 1.0 mmol, 255 mg | C(C)OC(=O)C1=C(N(C=C1O)C)CC(=O)OCC | C12H17NO5
reactant | p-chlorobenzoyl chloride | 3.0 mmol, 385 μl | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | trifluoromethanesulfonic acid | 2.0 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | ethyl 5-(p-chlorobenzoyl)-3-ethoxycarbonyl-4-hydroxy-1-methylpyrrole-2-acetate | 275 mg, 70% | ClC1=CC=C(C(=O)C2=C(C(=C(N2C)CC(=O)OCC)C(=O)OCC)O)C=C1 | C19H20ClNO6
